US05332737
A mixture of 2-chloro-4-indolin-1-yl-6-methylamino-1,3,5-triazine (5.0 g, 19.1 mM), ammonium formate (6.02 g, 95.6 mM), 10% w/w palladium on charcoal (1.0 g) and methanol (100 ml) was heated at 50° C., under argon, for 6 hours. The mixture was cooled, basified, and filtered. The solid collected by filtration was heated at reflux with ethanol, and the mixture refiltered. The filtrates were combined and the solvent evaporated. The residual solid was washed with water and then purified by flash column chromatography (silica, Merck 9385), eluting with ethyl acetate/hexane (1:3). This gave a solid which was recrystallised from ethyl acetate. There was thus obtained 2-(indolin-1-yl)-4-methylamino-1,3,5-triazine (1.7 g, 39% yield); m.p. 185°-187° C.: micro analysis, found: C, 62.8; H, 6.1; N, 30.3%; C12H13N5. 1/4 H2O requires: C, 62.2; H, 5.8; N, 30.2 %.

reactant | 2-chloro-4-indolin-1-yl-6-methylamino-1,3,5-triazine | 19.1 mM, 5.0 g | ClC1=NC(=NC(=N1)N1CCC2=CC=CC=C12)NC | C12H12ClN5
reactant | ammonium formate | 95.6 mM, 6.02 g | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 2-(indolin-1-yl)-4-methylamino-1,3,5-triazine | 1.7 g, 39% yield | N1(CCC2=CC=CC=C12)C1=NC=NC(=N1)NC | C12H13N5
